US07671043B2
1A. 3-({5-[5-(4-Isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-pyrazin-2-ylmethyl}-amino)-cyclobutanecarboxylic acid ethyl ester
A solution of 5-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyrazine-2-carbaldehyde (0.100 g, 0.32 mmol), cis-3-amino-cyclobutanecarboxylic acid ethyl ester (0.056 g, 0.388 mmol), sodium triacetoxyborohydride (0.082 g, 0.388 mmol) and dichloroethane (5.0 mL) was stirred at room temperature for 12 hours. The reaction mixture was quenched with 1N NaOH (10 mL) and the organic layer was isolated, washed with H2O (2×10 mL) and brine (10 mL), dried (Na2SO4), filtered and concentrated in vacuo to yield the title compound as a crude solid.

reactant | 5-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyrazine-2-carbaldehyde | 0.32 mmol, 0.100 g | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C=1N=CC(=NC1)C=O | C17H16N4O2
reactant | cis-3-amino-cyclobutanecarboxylic acid ethyl ester | 0.388 mmol, 0.056 g | C(C)OC(=O)[C@@H]1C[C@@H](C1)N | C7H13NO2
reactant | sodium triacetoxyborohydride | 0.388 mmol, 0.082 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloroethane | 5.0 mL | ClC(C)Cl | C2H4Cl2
product | 3-({5-[5-(4-Isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-pyrazin-2-ylmethyl}-amino)-cyclobutanecarboxylic acid ethyl ester | C(C)OC(=O)C1CC(C1)NCC1=NC=C(N=C1)C1=NOC(=N1)C1=CC=C(C=C1)CC(C)C | C24H29N5O3
